US04018802
Step C. Preparation of methyl 8-methylsulfonyl-11-(1-acetoxycyclohexyl)-10-undecynoate
The synthesis of this compound is carried out by the procedure of Example 3, Step D, except that methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate is replaced by an equivalent quantity of methyl 8-methoxycarbonyl-8-methylsulfonyl-11-(1-acetoxycyclohexyl)-10-undecynoate.

reactant | methyl 8-methoxycarbonyl-8-methylsulfonyl-12-acetoxyheptadecanoate | COC(=O)C(CCCCCCC(=O)OC)(CCCC(CCCCC)OC(C)=O)S(=O)(=O)C | C23H42O8S
reactant | methyl 8-methoxycarbonyl-8-methylsulfonyl-11-(1-acetoxycyclohexyl)-10-undecynoate | COC(=O)C(CCCCCCC(=O)OC)(CC#CC1(CCCCC1)OC(C)=O)S(=O)(=O)C | C23H36O8S
product | methyl 8-methylsulfonyl-11-(1-acetoxycyclohexyl)-10-undecynoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CC#CC1(CCCCC1)OC(C)=O | C21H34O6S
